US07173022B2
N-(4-Fluoro-2-(methylcarbamoyl)benzyl)-3-hydroxy-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxamide.
Intermediate 7, N-(4-fluoro-2-(methylcarbamoyl)benzyl)-3-(benzyloxy)-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxamide was treated with trifluoroacetic acid, according to Method D to provide the title compound 1H NMR (300 MHz, CDCl3) δ ppm: 12.12 (1H, br), 8.71 (1H, br), 7.47 (1H, dd, J=8.1, 5.5 Hz), 7.05–7.2 (2H, m), 6.26 (1H, br), 4.59 (2H, d, J=6.6 Hz), 3.95–4.06 (2H, m), 3.00 (3H, d, J=4.8 Hz), 1.99–2.08 (2H, m), 1.31 (6H, s); HRMS (ESI) calcd for C19H22FN4O4(M+H) 389.1625, found 389.1625.

reactant | N-(4-fluoro-2-(methylcarbamoyl)benzyl)-3-(benzyloxy)-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3N(C(C2OCC2=CC=CC=C2)=O)CCC3(C)C)C=C1)C(NC)=O | C26H27FN4O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N-(4-Fluoro-2-(methylcarbamoyl)benzyl)-3-hydroxy-8,8-dimethyl-4-oxo-4,6,7,8-tetrahydropyrrolo[1,2-a]pyrimidine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3N(C(C2O)=O)CCC3(C)C)C=C1)C(NC)=O | C19H21FN4O4
